US06919336B2
1-Methyl-4-((E)-2-tributylstannanyl-vinyl)-piperidin-4ol is prepared in analogy to the procedure described in example 9 from 4-ethynyl-1-methyl-piperidin-4-ol and Bu3SnH.

reactant | 4-ethynyl-1-methyl-piperidin-4-ol | C(#C)C1(CCN(CC1)C)O | C8H13NO
reactant | Bu3SnH | CCCC[SnH](CCCC)CCCC
product | 1-Methyl-4-((E)-2-tributylstannanyl-vinyl)-piperidin-4ol | CN1CCC(CC1)(O)\C=C\[Sn](CCCC)(CCCC)CCCC | InChI=1S/C8H14NO.3C4H9.Sn/c1-3-8(10)4-6-9(2)7-5-8;3*1-3-4-2;/h1,3,10H,4-7H2,2H3;3*1,3-4H2,2H3;
